US05817690
4-[2-(1,3-Dihydro-isoindol-2-yl)-ethoxy]-7-fluoro-1,3-dihydro-indol-2-one
4-(2-Chloroethoxy)-7-fluoro-1,3-dihydro-indol-2-one was reacted with isoindoline in the same manner described for intermediate 16 to afford the title compound in 75% yield as a thick oil. The fumarate salt was prepared in ethanol: mp 210°-212° C.

reactant | 4-(2-Chloroethoxy)-7-fluoro-1,3-dihydro-indol-2-one | ClCCOC1=C2CC(NC2=C(C=C1)F)=O | C10H9ClFNO2
reactant | isoindoline | C1NCC2=CC=CC=C12 | C8H9N
product | 4-[2-(1,3-Dihydro-isoindol-2-yl)-ethoxy]-7-fluoro-1,3-dihydro-indol-2-one | 75% yield | C1N(CC2=CC=CC=C12)CCOC1=C2CC(NC2=C(C=C1)F)=O | C18H17FN2O2
